US03966945
Also, 2-(methoxymethyl)pyridine is prepared by the following alternative procedure. A mixture of 10.9 g. of 2-pyridinemethanol and 2.4 g. of sodium hydride in 50 ml. of dimethylsulfoxide is warmed on a steam bath for 15 minutes, then cooled to room temperature. Methyl iodide (14.2 g.) is added and then the mixture is heated at 40°C. for 1 hour. Water (150 ml.) is then added and the mixture is extracted with ether. The extracts are dried, concentrated and distilled to give 2-(methoxymethyl)pyridine.

reactant | 2-pyridinemethanol | N1=C(C=CC=C1)CO | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | Methyl iodide | 14.2 g | CI | CH3I
solvent | Water | 150 ml | O | H2O
product | 2-(methoxymethyl)pyridine | COCC1=NC=CC=C1 | C7H9NO
